### PR TITLE
define DFA.toTotalDFA, and prove it accepts the same language

### PR DESCRIPTION
**Pull request by matzemathics**

### CODE REVIEW

File: FormalSystems/Chomsky/Regular/TotalDFA.lean [hunk 1]
```diff
@@ -32,3 +32,96 @@ theorem in_language_iff_del_star_final
   w ∈ M.GeneratedLanguage ↔ M.del_star' (M.q₀, w) ∈ M.F := by
   rw [DFA.in_language_iff_del_star_final, total_del_star_eq]
   simp
+
+instance [i: Fintype t]: Fintype (Option t) where
+  elems :=
+    (i.elems.map ⟨ fun x => some x, fun _ _ => by simp ⟩).cons
+      none (by simp)
+  complete := fun x => by cases x <;> simp; apply Fintype.complete
```
Comment (monsterkrampe) [inline FormalSystems/Chomsky/Regular/TotalDFA.lean]: Since we are using mathlib anyway, is there a reason not to use [this](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Fintype/Option.html#instFintypeOption)?

**Review by monsterkrampe — APPROVED** [review]
Looks good!
The comment above is more out of curiosity. Maybe there is a good reason to not use the instance that is provided by mathlib. In this case, feel free to merge as is.

File: FormalSystems/Chomsky/Regular/TotalDFA.lean (hunk 1 above)
Comment (matzemathics) [reply FormalSystems/Chomsky/Regular/TotalDFA.lean]: Haha, I did not find this one, and now I know why: because I didn't import it.
